US07534797B2
trans-3-Hydroxycyclobutanecarboxylic acid methyl ester
To a solution of trans-3-acetoxycyclobutanecarboxylic acid methyl ester (trans/cis=5:1) (4.70 g, 27.3 mmol) in dry methanol (45 mL) was added sodium methoxide (25 wt % solution in MeOH, 0.62 mL, 2.7 mmol), and the solution was stirred at ambient temperature. More NaOMe solution (0.31 mL, 2.4 mmol) was added after 1 h and 2 h, and stirring was continued overnight. Most of the methanol was evaporated, water was added (≈100 mL), and the mixture was extracted with CH2Cl2 (6×60 mL). The combined organic layers were washed with NaHCO3 solution and brine, dried over MgSO4, filtered and concentrated (vacuum down to ≈40 mbar) to give the title compound as brown oil, trans/cis=5:1 based on 1H NMR. The material thus obtained was used without further purification. 1H NMR (CDCl3, 400 MHz) δ 2.17-2.27 (m, 2H), 2.54-2.64 (m, 2H), 3.00-3.09 (mc, 1H), 3.70 (s, 3H), 4.53-4.62 (mc, 1H).

reactant | trans-3-acetoxycyclobutanecarboxylic acid methyl ester | 27.3 mmol, 4.70 g | COC(=O)[C@@H]1C[C@H](C1)OC(C)=O | C8H12O4
reactant | sodium methoxide | 2.7 mmol, 0.62 mL | C[O-].[Na+]
reactant | NaOMe | 2.4 mmol, 0.31 mL | C[O-].[Na+]
solvent | methanol | 45 mL | CO | CH4O
product | trans-3-Hydroxycyclobutanecarboxylic acid methyl ester | COC(=O)[C@@H]1C[C@H](C1)O | C6H10O3
